US04406828
Methyl benzyl ketone is reacted with crotyl chloride or 3-chloro-1-butene in accordance with the foregoing details and there is obtained 5-phenyl-hept-2-en-6-one of boiling point 88° C./3 mmHg; nD20 =1.5190. When 3-chloro-1-butene is used there is also obtained 3-methyl-5-phenyl-hex-1-en-5-one which is separated by distillation.

reactant | Methyl benzyl ketone | C(C1=CC=CC=C1)C(=O)C | C9H10O
reactant | crotyl chloride | C(C=CC)Cl | C4H7Cl
reactant | 3-chloro-1-butene | ClC(C=C)C | C4H7Cl
product | 5-phenyl-hept-2-en-6-one | C1(=CC=CC=C1)C(CC=CC)C(C)=O | C13H16O
